US07737149B2
Hydrogen chloride (4M in 1,4-dioxane, 3.04 ml, 12.15 mmol) was added to a stirred suspension of methyl 2-(1-(tert-butoxycarbonyl)piperidin-4-yl)pyrimidine-5-carboxylate (976 mg, 3.04 mmol) in methanol (15.20 ml) at 25° C. The resulting solution was stirred at ambient temperature for 18 hours. The reaction mixture was purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 7M NH3/MeOH and evaporated to dryness to afford methyl 2-(piperidin-4-yl)pyrimidine-5-carboxylate (600 mg, 89%) as a yellow solid. This was used directly with no further purification.

reactant | Hydrogen chloride | 12.15 mmol, 4M, 3.04 ml | Cl | ClH
reactant | methyl 2-(1-(tert-butoxycarbonyl)piperidin-4-yl)pyrimidine-5-carboxylate | 3.04 mmol, 976 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=C(C=N1)C(=O)OC | C16H23N3O4
solvent | methanol | 15.20 ml | CO | CH4O
product | methyl 2-(piperidin-4-yl)pyrimidine-5-carboxylate | 600 mg, 89% | N1CCC(CC1)C1=NC=C(C=N1)C(=O)OC | C11H15N3O2
